US05998463
EXAMPLE 13 5-Acetyl-1-methyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-bromophenylcarbamoyl)-phenyl]-amide.
Prepared as in Example 1 from 1-methyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-(4-bromo-phenyl)-benzamide. Purified by flash-chromatography (hexanes/acetone, 1:1).

reactant | 1-methyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)C)=O | C15H17NO5
reactant | 3-amino-N-(4-bromo-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)Br)C=CC1 | C13H11BrN2O
product | 5-Acetyl-1-methyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-bromophenylcarbamoyl)-phenyl]-amide | BrC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)C)=O | C25H20BrN3O4
